US08912188B2
To a solution of methyl 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (140 mg, 0.37 mmol) in methanol (25 mL) and water (5 mL) was added sodium hydroxide (45 mg, 1.11 mmol) with stirring for overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (20 mL), and adjusted to pH 5 with HCl (3N) to give the precipitate, which was collected by filtration to afford 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a yellow solid (110 mg, 82%).

reactant | methyl 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.37 mmol, 140 mg | N1N=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)OC | C20H20N6O2
reactant | sodium hydroxide | 1.11 mmol, 45 mg | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 110 mg, 82% | N1N=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)O | C19H18N6O2
